US08242175B2
A mixture of 1-(4-piperazin-1-yl-phenyl)-ethanone (513 mg, 2.51 mmol), BOC2O (820 mg, 3.76 mmol) and TEA (0.698 ml, 5.02 mmol) in DCM (20 ml) was stirred at room temperature overnight. The resulting solution was concentrated in vacuo and then partitioned between water and AcOEt. The organic phase was dried over Na2SO4, evaporated in vacuo and the crude reaction mixture was purified by column chromatography (eluent: petroleum ether/AcOEt) to give 701 mg of 4-(4-acetyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 1-(4-piperazin-1-yl-phenyl)-ethanone | 2.51 mmol, 513 mg | N1(CCNCC1)C1=CC=C(C=C1)C(C)=O | C12H16N2O
reactant | BOC2O | 3.76 mmol, 820 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-acetyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 701 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C17H24N2O3
